US04108989
A solution of 7.10 g. (18.6 mole) of 7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide in 120 ml. of aqueous dimethyl-formamide at 0° under an argon atmosphere is basified to pH 10.0 with 10% sodium hydroxide solution. To this cold mixture is added 13.0 g. (76 mole) of carbobenzyloxy chloride in small portions over 15 minutes with concomitant addition of 10% alkali so as to maintain a pH of 10 to 10.5. The reaction is allowed to warm to room temperature after stirring at 0° for 11/2 hours. The mixture is diluted with saturated salt and extracted with three portions of ethyl acetate. The combined organic extract is backwashed twice with saturated salt. The dried extract is concentrated in vacuo and heated at 75°/0.1 mm Hg to remove any benzyl alcohol to yield 7,8-dihydroxy-N-carbobenzyloxy-1-phenyl-2,3,4,5-tetrahydro-1-H-3-benzazepine.

reactant | 7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | 18.6 mole | Br.OC1=CC2=C(C(CNCC2)C2=CC=CC=C2)C=C1O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | carbobenzyloxy chloride | 76 mole | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | dimethyl-formamide | CN(C=O)C | C3H7NO
product | 7,8-dihydroxy-N-carbobenzyloxy-1-phenyl-2,3,4,5-tetrahydro-1-H-3-benzazepine | OC1=CC2=C(C(CN(CC2)C(=O)OCC2=CC=CC=C2)C2=CC=CC=C2)C=C1O | C24H23NO4
